US07977358B2
A] 1,4-Dimethyl-5-(3-trifluoromethyl-phenyl)-1H-pyrazole-3-carboxylic acid methyl ester
A solution of 500 mg (2.47 mmol) of trifluoromethylpropiophenone and 0.335 mL (2.47 mmol) of diethyloxalate in 10 mL of MeOH was treated with 133 mg (2.47 mmol) of sodium methylate and stirred at room temperature for 3 hrs. The reaction was quenched by the addition of 10% aqueous KHSO4 and extracted with EtOAc (3×). The organic phases were washed with 10% aqueous KHSO4 and brine, dried over magnesium sulfate and evaporated to give crude 3-methyl-2,4-dioxo-4-(3-trifluoromethyl-phenyl)-butyric acid methyl ester. In analogy to the procedure described in Example 16A], crude 3-methyl-2,4-dioxo-4-(3-trifluoromethyl-phenyl)-butyric acid methyl ester and methylhydrazine gave after purification by flash column chromatography (n-heptane/AcOEt 2:1) 79.2 mg (3%) of the title compound as a rose powder. MS: 299.1 (MH+).

reactant | 3-methyl-2,4-dioxo-4-(3-trifluoromethyl-phenyl)-butyric acid methyl ester | COC(C(C(C(C1=CC(=CC=C1)C(F)(F)F)=O)C)=O)=O | C13H11F3O4
reactant | methylhydrazine | CNN | CH6N2
product | 1,4-Dimethyl-5-(3-trifluoromethyl-phenyl)-1H-pyrazole-3-carboxylic acid methyl ester | COC(=O)C1=NN(C(=C1C)C1=CC(=CC=C1)C(F)(F)F)C | C14H13F3N2O2
